US07906546B2
To a stirred solution of 2 g (6.44 mmol) of benzenesulfonyl-(3-oxo-cyclohexyl)-acetic acid methyl ester in 40 mL of DMF at 0° C., 283 mg (7.09 mmol, 1.1 eq) of NaH (60%) were added. The reaction mixture was stirred at this temperature for one hour, and 1.37 g (9.66 mmol, 1.5 eq) of methyliodide were added. After 2 hours at RT, the reaction mixture was poured into water and extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated. The resulting two diastereomers were separated by column chromatography on silica gel with heptane/EtOAc 2:1, yielding 0.79 g (38%) of (RS,SR)-2-benzenesulfonyl-2-(3-oxo-cyclohexyl)-propionic acid methyl ester as a white solid, MS: 325 (MH+) and 0.71 g (34%) of (RR,SS)-2-benzenesulfonyl-2-(3-oxo-cyclohexyl)-propionic acid methyl ester as a white solid, MS: 325 (MH+).

reactant | benzenesulfonyl-(3-oxo-cyclohexyl)-acetic acid methyl ester | 6.44 mmol, 2 g | COC(C(C1CC(CCC1)=O)S(=O)(=O)C1=CC=CC=C1)=O | C15H18O5S
reactant | NaH | 7.09 mmol, 283 mg, 1.1 eq | [H-].[Na+]
reactant | methyliodide | 9.66 mmol, 1.37 g, 1.5 eq | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (RS,SR)-2-benzenesulfonyl-2-(3-oxo-cyclohexyl)-propionic acid methyl ester | 0.79 g, 38% | COC(C(C)(C1CC(CCC1)=O)S(=O)(=O)C1=CC=CC=C1)=O | C16H20O5S
